US07846959B2
To a solution of oxalyl chloride (0.097 mL, 1.1 mmol) in dichloromethane cooled to −60° C. was added dimethyl sulfoxide (0.16 mL, 2.2 mmol), followed by 2-{hydroxy[1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-indol-5-yl]methyl}benzonitrile (0.21 g, 0.55 mmol in 2 mL dichloromethane). Triethylamine (0.46 mL, 3.3 mmol) was added and the solution was allowed to warm to room temperature and stirred for 30 min. The reaction mixture was quenched with an excess of water, and diluted with dichloromethane and brine. The layers were separated, and the aqueous layer was extracted (2×100 mL dichloromethane), dried (sodium sulfate), filtered and concentrated in vacuo. Column chromatography (silica gel, 4:1 hexanes/ethyl acetate) gave 0.12 g (58%) of 2-{[1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-indol-5-yl]carbonyl}benzonitrile. 1H NMR (400 MHz, CDCl3): 8.07 (d, 1H), 7.88 (dd, 2H), 7.70 (m, 3H), 7.60 (d, 1H), 7.30 (d, 1H), 6.65 (m, 1H), 5.56 (s, 2H), 3.53 (m, 2H), 0.95 (m, 2H), 0.00 (s, 9H); 13C NMR (400 MHz, CDCl3): 194.90 (C═O), 144.16, 140.45, 135.12, 133.07, 131.72, 131.03, 130.81, 129.82, 129.66, 127.08, 125.30, 118.39, 112.98, 111.50, 105.56, 77.05, 67.48, 19.09, 0.00.

reactant | oxalyl chloride | 1.1 mmol, 0.097 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 2.2 mmol, 0.16 mL | CS(=O)C | C2H6OS
reactant | 2-{hydroxy[1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-indol-5-yl]methyl}benzonitrile | 0.55 mmol, 2 mL, 0.21 g | OC(C1=C(C#N)C=CC=C1)C=1C=C2C=CN(C2=CC1)COCC[Si](C)(C)C | C22H26N2O2Si
reactant | Triethylamine | 3.3 mmol, 0.46 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-{[1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-indol-5-yl]carbonyl}benzonitrile | 0.12 g, 58% | C[Si](CCOCN1C=CC2=CC(=CC=C12)C(=O)C1=C(C#N)C=CC=C1)(C)C | C22H24N2O2Si
